US07968725B2
c) [2,6-Bis-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-acetic acid methyl ester
A solution of LDA (1.8 M in THF/heptane/ethyl benzene, 4.4 mL, 7.92 mmol) was added slowly to a stirred solution of 4-methyl-2,6-bis-(4-trifluoromethylphenyl)-pyridine (1.37 g, 3.6 mmol) under N2 at −78° C. After 30 minutes, dimethyl carbonate (720 μL, 8.0 mmol) was added. After stirring at −78° C. for an additional 30 minutes, the solution was allowed to warm up slowly and stirred at 0° C. for 30 minutes The reaction was quenched with saturated aqueous NH4Cl (10 mL). The mixture was partitioned between CH2Cl2 and H2O. The aqueous layer was extracted with CH2Cl2 (2×). The combined extracts were washed with brine, then dried (Na2SO4), filtered and evaporated. The residue was purified by column chromatography on silica gel (10-50% CH2Cl2 in heptane) to give the product as a white solid (1.38 g, 87%). 1H NMR (300 MHz, CDCl3) δ 8.24 (d, J=7.91 Hz, 4H), 7.76 (d, J=7.91 Hz, 4H), 7.72 (s, 2H), 3.80 (s, 2H), 3.77 (s, 3H). MS m/e 440.2 (M+H)

reactant | LDA | 7.92 mmol, 1.8 M, 4.4 mL | [Li+].CC(C)[N-]C(C)C
reactant | 4-methyl-2,6-bis-(4-trifluoromethylphenyl)-pyridine | 3.6 mmol, 1.37 g | CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C20H13F6N
reactant | dimethyl carbonate | 8.0 mmol, 720 μL | C(OC)(OC)=O | C3H6O3
product | [2,6-Bis-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-acetic acid methyl ester | 1.38 g, 87% | COC(CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C22H15F6NO2
